US06911468B2
(3) 4′-Methoxy[1,1′-biphenyl]-4-carbaldehyde
A mixed solution of 4-(4′-methoxyphenyl)benzylalcohol (1.20 g, 5.60 mmol), manganese dioxide (2.0 g) and tetrahydrofuran (25 ml) was stirred at room temperature for 72 hours. The reaction solution was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate:tetrahydrofuran=5:1:1) to give the object compound (1.1 g) as colorless crystals. Melting point: 99-100° C.

reactant | 4-(4′-methoxyphenyl)benzylalcohol | 5.60 mmol, 1.20 g | COC1=CC=C(C=C1)C1=CC=C(CO)C=C1 | C14H14O2
catalyst | manganese dioxide | 2.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4′-Methoxy[1,1′-biphenyl]-4-carbaldehyde | 1.1 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H12O2
